US08293744B2
Step 5: Preparation of (±)-5-{[4-(6-methylpyridin-3-yl)phenyl]methyl}-2-(tetrahydro-2H-pyran-3-yl)-2,5-dihydro-3H-pyrazolo[4,3-c]thieno[2,3-e]pyridazin-3-one:
(±)-5-[(4-Iodophenyl)methyl]-2-(tetrahydro-2H-pyran-3-yl)-2,5-dihydro-3H-pyrazolo[4,3-c]thieno[2,3-e]pyridazin-3-one (50 mg, 0.10 mmol), cesium carbonate (66 mg, 0.20 mmol, 2 equiv), copper(I) chloride (10 mg, 0.10 mmol, 1 equiv), 2-methyl-5-pyridinylboronic acid (22 mg, 0.14 mmol, 1.4 equiv), palladium(II) acetate (2.3 mg, 10 μmol, 0.1 equiv), and 1,1′-bis(diphenylphosphino)ferrocene (11 mg, 20 μmol, 0.2 equiv) were combined in N,N-dimethylformamide (3 mL) and placed into a preheated oil bath at 90° C. for 30 minutes. The mixture was cooled to ambient temperature, poured into water (20 mL) and extracted with ethyl acetate (3×75 mL). The combined organic extracts were washed with water (50 mL) and brine (50 mL), dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 0:100; hexnaes:ethyl acetate containing 10% methanol), providing the titled compound: 1H-NMR (400 MHz, CDCl3) δ 8.70 (1H, br s), 7.77 (1H, d, J=8.2 Hz), 7.65 (1H, d, J=5.6 Hz), 7.54 (2H, d, J=8.3 Hz), 7.39 (2H, d, J=8.3 Hz), 7.27-7.24 (2H, in), 5.81 (2H, s), 4.78-4.70 (1H, m), 4.02 (1H, dd, J=10.8, 3.9 Hz), 3.97 (1H, br d, J=11.4 Hz), 3.80 (1H, ap t, J=10.5 Hz), 3.49 (1H, td, J=11.3, 3.1 Hz), 2.62 (3H, s), 2.22 (1H, ddd, J=17.2, 12.3, 5.0 Hz), 2.10 (1H, br d, J=11.3 Hz), 1.94-1.80 (2H, m) ppm; high resolution mass spectrometry (ES+) m/z 458.1642 [(M+H)+; calculated for C25H24N5O2S: 458.1645].

reactant | (±)-5-[(4-Iodophenyl)methyl]-2-(tetrahydro-2H-pyran-3-yl)-2,5-dihydro-3H-pyrazolo[4,3-c]thieno[2,3-e]pyridazin-3-one | 0.10 mmol, 50 mg | IC1=CC=C(C=C1)CN1N=C2C(C3=C1C=CS3)=NN(C2=O)C2COCCC2 | C19H17IN4O2S
reactant | cesium carbonate | 0.20 mmol, 66 mg, 2 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-methyl-5-pyridinylboronic acid | 0.14 mmol, 22 mg, 1.4 equiv | CC1=NC=C(C=C1)B(O)O | C6H8BNO2
reactant | water | 20 mL | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | copper(I) chloride | 0.10 mmol, 10 mg, 1 equiv | [Cu]Cl
catalyst | palladium(II) acetate | 10 μmol, 2.3 mg, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 20 μmol, 11 mg, 0.2 equiv | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (±)-5-{[4-(6-methylpyridin-3-yl)phenyl]methyl}-2-(tetrahydro-2H-pyran-3-yl)-2,5-dihydro-3H-pyrazolo[4,3-c]thieno[2,3-e]pyridazin-3-one | CC1=CC=C(C=N1)C1=CC=C(C=C1)CN1N=C2C(C3=C1C=CS3)=NN(C2=O)C2COCCC2 | C25H23N5O2S
